US08058299B2
Preparation of (1R,3S)-3-(5-amino-pyridin-2-ylamino)-cyclopentanecarboxylic acid ethyl ester
With a method similar to that used for the preparation of (S)-3-(5-amino-pyridin-2-ylamino)-pyrrolidine-1-carboxylic acid tert-butyl ester above, (1R,3S)-3-(5-amino-pyridin-2-ylamino)-cyclopentanecarboxylic acid methyl ester was prepared by the hydrogenation of (1R,3S)-3-(5-nitro-pyridin-2-ylamino)-cyclopentanecarboxylic acid methyl ester. This material was directly used in the next step without further purification.

reactant | (S)-3-(5-amino-pyridin-2-ylamino)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H](CC1)NC1=NC=C(C=C1)N | C14H22N4O2
reactant | (1R,3S)-3-(5-amino-pyridin-2-ylamino)-cyclopentanecarboxylic acid methyl ester | COC(=O)[C@H]1C[C@H](CC1)NC1=NC=C(C=C1)N | C12H17N3O2
reactant | (1R,3S)-3-(5-nitro-pyridin-2-ylamino)-cyclopentanecarboxylic acid methyl ester | COC(=O)[C@H]1C[C@H](CC1)NC1=NC=C(C=C1)[N+](=O)[O-] | C12H15N3O4
product | (1R,3S)-3-(5-amino-pyridin-2-ylamino)-cyclopentanecarboxylic acid ethyl ester | C(C)OC(=O)[C@H]1C[C@H](CC1)NC1=NC=C(C=C1)N | C13H19N3O2
